US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-[2′-(hydroxymethyl)-1,1′-biphenyl-3-yl]acetamide Hydrochloride
48.1 mg (0.32 mmol) of 2-(hydroxymethyl)phenylboronic acid, 0.95 ml (0.95 mmol) of 1M sodium hydroxide solution and 51.7 mg (0.06 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride are added to a solution of 150 mg (0.32 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride in 2 ml of DMF. The reaction mixture is stirred at 80° C. for 18 h. The same amounts of 2-(hydroxymethyl)phenylboronic acid, 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride and sodium hydroxide solution are again added, and the mixture is heated at 80° C. for a further 24 h. The reaction mixture is cooled, filtered through kieselguhr and then purified by preparative HPLC. The product fractions are concentrated, taken up in methanol, mixed with 4M HCl in dioxane and again concentrated. Drying under high vacuum results in 86.5 mg (64.1% of theory) of the title compound.

reactant | 2-(hydroxymethyl)phenylboronic acid | 0.32 mmol, 48.1 mg | OCC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium hydroxide | 0.95 mmol, 1M, 0.95 ml | [OH-].[Na+]
reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride | 0.32 mmol, 150 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC(=CC=C2)Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.06 mmol, 51.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-[2′-(hydroxymethyl)-1,1′-biphenyl-3-yl]acetamide Hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC=2C=C(C=CC2)C2=C(C=CC=C2)CO | InChI=1S/C22H26N2O2.ClH/c25-15-18-4-1-2-7-21(18)17-5-3-6-20(12-17)23-22(26)13-19-14-24-10-8-16(19)9-11-24;/h1-7,12,16,19,25H,8-11,13-15H2,(H,23,26);1H
